US08283479B2
A solution of 41 mg of 4-[4-chloro-2-(1-ethoxycarbonyl-1-methyl-propylcarbamoyl)-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester (see example 160, step a)) in 4 mL THF and 1 mL MeOH was treated with 4 mL of 2 M aqueous sodium hydroxide. The reaction mixture was stirred at room temperature overnight. The organic solvent was removed in vacuo. The residue was taken up in 6 ml of water and washed with ethyl acetate. It was treated with 2 M hydrochloric acid to adjust the pH to 5-6 and extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulphate and concentrated to give 12 mg of 4-[2-(1-carboxy-1-methyl-propylcarbamoyl)-4-chloro-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-[4-chloro-2-(1-ethoxycarbonyl-1-methyl-propylcarbamoyl)-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 41 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C2=CC=CC=C12)Cl)C(NC(CC)(C)C(=O)OCC)=O | C29H39ClN2O6
reactant | MeOH | 1 mL | CO | CH4O
reactant | sodium hydroxide | 2 M, 4 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-[2-(1-carboxy-1-methyl-propylcarbamoyl)-4-chloro-naphthalen-1-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 12 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C2=CC=CC=C12)Cl)C(NC(CC)(C)C(=O)O)=O | C27H35ClN2O6
